US06897224B2
3-[1-(5-Fluoro-2-hydroxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol
Analogously to Example 38, 100 mg (0.22 mmol) of 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol is reacted with 4.40 ml (4.40 mmol) of a 1 M boron tribromide solution. After working-up and purification on silica gel with hexane-ethyl acetate (0-100%) as well as with ethyl acetate-methanol (0-20%), 50 mg (50% of theory) of the product is obtained.

reactant | 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | 0.22 mmol, 100 mg | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)OC | C24H24F4N2O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
product | 3-[1-(5-Fluoro-2-hydroxyphenyl)cycloprop-1-yl]-1-(2-(hydroxymethyl)quinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)CO)(O)C(F)(F)F)O | C23H22F4N2O3
